US07750012B2
4-(4-Benzyl-piperazin-1-yl)-phenol:
To a solution of 4-piperazin-1-yl-phenol (1.78 g, 10 mmol) in DMF (20 mL) was added bromomethyl-benzene (1.71 g, 10 mmol) dropwise and then the reaction was stirred at room temperature for 16 h. The mixture was poured into water and pH was adjusted to 7 with sat. aqueous NaHCO3, and then extracted with ethyl acetate (100 ml×2). The combined organic layers were washed with water and dried over anhy. Na2SO4. After removing the solvent under vacuum, the title compound was obtained (1.1 g, 41%) and MS (ESI) m/z 269 (M+H). 1H NMR (400 MHz, CDCl3) δ 2.62 (t, J=4.8 Hz, 4H), 3.08 (t, J=4.8 Hz, 4H), 3.57 (s, 2H), 6.74 (d, J=8.8 Hz, 2H), 6.83 (d, J=8.8 Hz, 2H), 7.28-7.34 (m, 5H).

reactant | 4-piperazin-1-yl-phenol | 10 mmol, 1.78 g | N1(CCNCC1)C1=CC=C(C=C1)O | C10H14N2O
reactant | bromomethyl-benzene | 10 mmol, 1.71 g | BrCC1=CC=CC=C1 | C7H7Br
reactant | water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(4-Benzyl-piperazin-1-yl)-phenol | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C17H20N2O
